US08383638B2
To a solution of tert-butyl 4-cyanopiperidine-1-carboxylate (0.500 g, 2.38 mmol) in 15 mL of THF at −78° C. was added lithium bis(trimethylsilyl)amide (1 M solution in diethyl ether, 5.23 mL, 5.23 mmol). After 20 min, iodomethane (0.338 g, 2.38 mmol) was added dropwise, and the reaction was slowly warmed to rt. After 15 h, the mixture was cooled to 0° C., treated with water, and extracted 3× with ethyl acetate. The solution was extracted 3× with ethyl acetate, and the combined organic solution was washed with water and brine, dried over sodium sulfate, filtered, and concentrated in vacuo to provide tert-butyl 4-cyano-4-methylpiperidine-1-carboxylate that gave a proton NMR spectra consistent with theory.

reactant | tert-butyl 4-cyanopiperidine-1-carboxylate | 2.38 mmol, 0.500 g | C(#N)C1CCN(CC1)C(=O)OC(C)(C)C | C11H18N2O2
reactant | lithium bis(trimethylsilyl)amide | 5.23 mmol, 1 M, 5.23 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | iodomethane | 2.38 mmol, 0.338 g | IC | CH3I
reactant | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-cyano-4-methylpiperidine-1-carboxylate | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C12H20N2O2
